US07560569B2
4-Benzyloxycarbonylamino-N-(4,4-difluorocyclohexyl)bicyclo[2.2.2]octane-1-carboxamide (55.4 mg) was dissolved in tetrahydrofuran (6 mL). To this solution, 10% palladium carbon (20.0 mg) was added and the mixture was stirred at room temperature for 6 hours in a hydrogen atmosphere. The reaction mixture was filtered to remove the catalyst and the filtrate was concentrated under reduced pressure. The resulting residue was purified by a silica gel column (eluant:ethyl acetate:methanol=10:1) to give 4-amino-N-(4,4-difluorocyclohexyl)bicyclo[2.2.2]octane-1-carboxamide (38.1 mg) as a white solid.

reactant | 4-Benzyloxycarbonylamino-N-(4,4-difluorocyclohexyl)bicyclo[2.2.2]octane-1-carboxamide | 55.4 mg | C(C1=CC=CC=C1)OC(=O)NC12CCC(CC1)(CC2)C(=O)NC2CCC(CC2)(F)F | C23H30F2N2O3
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
catalyst | palladium carbon | 20.0 mg | [C].[Pd]
product | 4-amino-N-(4,4-difluorocyclohexyl)bicyclo[2.2.2]octane-1-carboxamide | 38.1 mg | NC12CCC(CC1)(CC2)C(=O)NC2CCC(CC2)(F)F | C15H24F2N2O
